US07402684B2
(S)-2-[4-(4-Chloro-phenoxy)-phenoxymethyl]-1-[1,2,4]oxadiazol-5-ylmethyl-piperidine:
A mixture of (S)-2-[4-(4-chloro-phenoxy)-phenoxymethyl]-piperidine hydrochloride (218 mg, 0.615 mmol), 3-(chloromethyl)-1,2,4-oxadiazole (47 mg, 0.393 mmol), and potassium carbonate (87 mg, 0.629 mmol) in DMF (2.5 mL) was heated for 18 h at rt. The solvent was removed in vacuo to obtain the crude mixture, which was purified by silica gel flash chromatography to obtain the title product (65 mg, 51%): MS; m/z 400 (M+H):: LCMS (UV) 93%.

reactant | (S)-2-[4-(4-chloro-phenoxy)-phenoxymethyl]-piperidine hydrochloride | 0.615 mmol, 218 mg | Cl.ClC1=CC=C(OC2=CC=C(OC[C@H]3NCCCC3)C=C2)C=C1
reactant | 3-(chloromethyl)-1,2,4-oxadiazole | 0.393 mmol, 47 mg | ClCC1=NOC=N1 | C3H3ClN2O
reactant | potassium carbonate | 0.629 mmol, 87 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | (S)-2-[4-(4-Chloro-phenoxy)-phenoxymethyl]-1-[1,2,4]oxadiazol-5-ylmethyl-piperidine | 65 mg, 51% | ClC1=CC=C(OC2=CC=C(OC[C@H]3N(CCCC3)CC3=NC=NO3)C=C2)C=C1 | C21H22ClN3O3
